US05041454
A mixture of 2.54. parts of 4-chloro-N-methyl-N-phenylbutanamide, 3.14 parts of cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide, 2.45 parts of N,N-diethylethanamine, 0.1 parts of potassium iodide and 90 parts of N,N-dimethylformamide was stirred for 20 hours at 80° C. The reaction mixture was evaporated. The residue was taken up in water and sodium carbonate. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile and a small amount of water. The product was filtered off and dried, yielding 2.05 parts (40.4%) of cis-4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-N-methyl-N-phenyl-1-piperidinebutanamide monohydrate; mp. 97.4° C. (compound 23).

reactant | 4-chloro-N-methyl-N-phenylbutanamide | ClCCCC(=O)N(C1=CC=CC=C1)C | C11H14ClNO
reactant | cis-4-amino-5-chloro-2-methoxy-N-(3-methoxy-4-piperidinyl)benzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC | C14H20ClN3O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cis-4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-N-methyl-N-phenyl-1-piperidinebutanamide monohydrate | 40.4% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(=O)N(C2=CC=CC=C2)C)OC)C=C1Cl)OC | InChI=1S/C25H33ClN4O4.H2O/c1-29(17-8-5-4-6-9-17)24(31)10-7-12-30-13-11-21(23(16-30)34-3)28-25(32)18-14-19(26)20(27)15-22(18)33-2;/h4-6,8-9,14-15,21,23H,7,10-13,16,27H2,1-3H3,(H,28,32);1H2/t21-,23+;/m0./s1
